US05688946
A solution of 335 mg (0.44 mmol) of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R, 3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-iodoimidazole-4-propionamide and 79 mg (0.88 mmol) of copper-(I) cyanide in 25 ml of dimethylformamide is stirred at 120° overnight under argon. Subsequently, the reaction mixture is evaporated under reduced pressure, the residue is suspended in 30 ml of a 95:5 mixture of methylene chloride and methanol and filtered over Dicalite. The filtrate is evaporated and, for purification, the residue is chromatographed on 50 g of silica gel using a 160:10:1 mixture of methylene chloride, methanol and ammonia as the eluent. After precipitation from a methylene chloride-ether mixture there are obtained 40 mg of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-cyanoimidazole-4-propionamide as a colourless powder; MS: 656 (M+H)+.

reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R, 3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-iodoimidazole-4-propionamide | 0.44 mmol, 335 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1I)CC1=CC=CC=C1 | C33H49IN4O6S
reactant | copper-(I) cyanide | 0.88 mmol, 79 mg | [Cu]C#N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-5-cyanoimidazole-4-propionamide | 40 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1C#N)CC1=CC=CC=C1 | C34H49N5O6S
